US07608603B2
(S)-1-[3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]propan-2-ol (2.5 g, 5.79 mmol) was dissolved in 20 mL pyridine at room temperature, and the mixture was cooled to 0° C. with stirring. P(OCH3)3 (1.93 mL, excess) and CBr4 (0.96 g) were added slowly, and the reaction mixture was allowed to warm up to room temperature over 20 minutes with stirring. The reaction mixture was poured into cold 1N HCl, and the resulting solution was extracted with EtOAc. The combined organic layers were washed with 1N HCl, followed by saturated aqueous NaHCO3, then with saturated brine. The organic phase was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, 30%-60% EtOAc in methylene chloride) to give 3.132 g of phosphoric acid 2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester dimethyl ester, MS (M+H)=540.

reactant | (S)-1-[3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]propan-2-ol | 5.79 mmol, 2.5 g | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)NC[C@H](C)O)OC2=C(C=C(C=C2)F)F | C20H16ClF2N5O2
reactant | P(OCH3)3 | 1.93 mL | P(OC)(OC)OC | C3H9O3P
reactant | CBr4 | 0.96 g | C(Br)(Br)(Br)Br | CBr4
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | phosphoric acid 2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester dimethyl ester | 3.132 g | COP(OC(CNC1=C2C(=NC(=N1)OC1=C(C=C(C=C1)F)F)NN=C2C2=C(C=CC=C2)Cl)C)(OC)=O | C22H21ClF2N5O5P
